US04554100
4-Carboxybutyrylalanyl-alanyl Proline Ethylamide
1.7 g of glutaric anhydride was added to a solution of 4.0 grams of alanyl-alanyl proline ethylamide in 25 ml of dimethylformamide and the reaction solution heated for 1 hour at 60 degrees C. Then, the solution was evaporated and the resultant non-crystalline evaporation residue dissolved in 30 ml of ethyl acetate. After 48 hours of standing at 3 degrees C., 3.6 g of separated product was filtered off with a melting point of 154 to 156 degrees C. ([α]D20 -137.3 degrees (c 0.3; 50% methyl alcohol).

reactant | glutaric anhydride | 1.7 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | alanyl-alanyl proline ethylamide | 4.0 grams | C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](N)C)=O)C)=O)=O | C13H24N4O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-Carboxybutyrylalanyl-alanyl Proline Ethylamide | C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(CCCC(=O)O)=O)C)=O)C)=O)=O | C18H30N4O6
